US07595403B2
The preparation of 6-Chloro-3-oxo-3H-benzo[d]isothiazole-2-carboxylic acid propylamide
Following the synthetic procedure of 6a as described in Example 1, compound 6u (96% yield) was synthesized from 6-chloro-benzo[d]isothiazol-3-one and n-propyl isocyanate as a white solid. IR(KBr) 3294, 1709, 1635, 1520 cm−1; 1H-NMR (CDCl3) δ1.00 (t, J=7.3 Hz, 3H), 1.61-1.71 (m, 2H), 3.38-3.44 (m, 2H), 7.38 (d, J=8.8 Hz, 1H), 7.58 (s, 1H), 7.93 (d, J=8.8 Hz, 1H), 8.79 (br s, 1H); ESIMS m/e 271 and 273 (M++1, 35Cl and 37Cl).

reactant | 6-chloro-benzo[d]isothiazol-3-one | ClC1=CC2=C(C(NS2)=O)C=C1 | C7H4ClNOS
reactant | n-propyl isocyanate | C(CC)N=C=O | C4H7NO
product | 6-Chloro-3-oxo-3H-benzo[d]isothiazole-2-carboxylic acid propylamide | C(CC)NC(=O)N1SC2=C(C1=O)C=CC(=C2)Cl | C11H11ClN2O2S
